US05326497
9 g of 2-[4-(3-acetoxy-1-butenyl)phenyl]-5-ethoxypyrimidine, 2 g of palladium on active charcoal (10 wt. %) and 150 ml of tetrahydrofuran were hydrogenated in an analogous manner to Example 1(e) to give 8.2 g of 2-(3-acetoxy-1-butyl)phenyl]-5-(ethoxy)pyrimidine.

reactant | 2-[4-(3-acetoxy-1-butenyl)phenyl]-5-ethoxypyrimidine | 9 g | C(C)(=O)OC(C=CC1=CC=C(C=C1)C1=NC=C(C=N1)OCC)C | C18H20N2O3
reactant | charcoal | C | CH4
catalyst | palladium | 2 g | [Pd] | Pd
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-(ethoxy)pyrimidine | C(C)OC=1C=NC=NC1 | C6H8N2O
